US08207373B2
Preparation 3: methyl 5-chloro-4-carboxymethyl-2-methoxy-benzoate
To 300 mg of methyl 4-carboxymethyl-2-methoxy-benzoate from preparation 1 placed in 6 mL of acetic acid, are added 110 μL of sulfuryl chloride (1 equivalent). The whole is refluxed for 6 hours. After evaporation of the solvent, the reaction crude product is purified on silica gel (petroleum ether/ethyl acetate: 80/20 then 60/40) leading to 165 mg of the desired compound.

reactant | methyl 4-carboxymethyl-2-methoxy-benzoate | 300 mg | C(=O)(O)CC1=CC(=C(C(=O)OC)C=C1)OC | C11H12O5
reactant | sulfuryl chloride | 110 μL, 1 equivalent | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | methyl 5-chloro-4-carboxymethyl-2-methoxy-benzoate | ClC=1C(=CC(=C(C(=O)OC)C1)OC)CC(=O)O | C11H11ClO5
